US07691879B2
1-amino-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile
A suspension of 1-chloro-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile in 1.5 mL of 2M NH3 in isopropanol was heated in a sealed tube at 90 C overnight, then heated in a microwave reactor at 170 C for 24 h. The reaction was concentrated and purified by reverse-phase HPLC to give a white solid.

reactant | 1-chloro-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile | ClC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC(=CC=C1)F)C#N | C17H10ClFN2O
reactant | NH3 | 2M, 1.5 mL | N | H3N
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-amino-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile | NC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC(=CC=C1)F)C#N | C17H12FN3O
